US04770692
17 g (0.05 mol) of 1-(2,6-dichloro-4-trifluoromethyl-phenyl)-5-(1-ethoxycarbonyl-ethoxy)-pyrazole are dissolved in 50 ml of acetic anhydride, and 10 ml of concentrated nitric acid are added dropwise with stirring at 0°-10° C. within 15 minutes. The reaction batch is stirred for a further 1 hour at room temperature and then poured onto ice water. After neutralization of the mixture using sodium hydrogen carbonate, the organic components are extracted with methylene chloride. The methylene chloride phase is dried over sodium sulphate and concentrated in vacuo. The crude yield of oily reaction product is 17 g. After trituration with petroleum ether, 10.8 g (49% of theory) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(1-ethoxycarbonyl-ethoxy)-4-nitro-pyrazole are obtained in the form of oily crystals.

reactant | 1-(2,6-dichloro-4-trifluoromethyl-phenyl)-5-(1-ethoxycarbonyl-ethoxy)-pyrazole | 0.05 mol, 17 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC=C1OC(C)C(=O)OCC | C15H13Cl2F3N2O3
reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(1-ethoxycarbonyl-ethoxy)-4-nitro-pyrazole | 10.8 g, 49% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=C1OC(C)C(=O)OCC)[N+](=O)[O-] | C15H12Cl2F3N3O5
